US06756378B2
To a stirred solution of ethyl 4-hydroxy-3-methoxybenzoate (3.00 g, 15.29 mmol), (S)-N-Boc-prolinol (3.08 g, 15.30 mmol), Ph3P (4.81 g, 18.34 mmol) in THF (50 mL) was added DIAD (3.61 mL, 18.33 mmol) at 0° C. The resulting mixture was heated under reflux 6.5 hr. After cooling to room temp, the mixture was evaporated and purified by column chromatography on silica-gel with CHCl3—MeOH (50:1, v/v) as eluent to give ethyl (S)-3-methoxy-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl methoxy]benzoate as a gum. The above ethyl (S)-3-methoxy-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinylmethoxy]benzoate was dissolved in CH2Cl2 (50 mL) and TFA (45 mL). The mixture was stirred for 2 days at room temp. The resulting mixture was concentrated in vacuo and made basic with sat. NaHCO3. The mixture was extracted with CH2Cl2, washed with brine, and dried over MgSO4. The solvent was evaporated and the residue was purified by column chromatography on silica-gel with CHCl3—MeOH (20:1, v/v) as eluent to give 3.27 g (77% for 2 steps) ethyl (S)-3-methoxy-4-(2-pyrrolidinylmethoxy) benzoate as a yellow oil. 1H-NMR (CDCl3) δ1.39 (t, 3 H, J=7.1 Hz), 1.52-1.59 (m, 1 H), 1.76-1.88 (m, 2 H), 1.92-2.01 (m, 1H), 2.92-3.06 (m, 2 H), 3.56-3.63 (m, 1 H), 3.90 (s, 3 H), 3.9-4.02 (m, 2 H), 4.35 (q, 2, J=7.1 Hz), 6.89 (d, 1 H, J=8.3 Hz), 7.54 (d, 1 H, J=2.0 Hz), 7.65 (dd, 1 H, J=2.0, 8.3 Hz).

reactant | ethyl 4-hydroxy-3-methoxybenzoate | 15.29 mmol, 3.00 g | OC1=C(C=C(C(=O)OCC)C=C1)OC | C10H12O4
reactant | (S)-N-Boc-prolinol | 15.30 mmol, 3.08 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 18.34 mmol, 4.81 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 18.33 mmol, 3.61 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl (S)-3-methoxy-4-[1-(tert-butoxycarbonyl)-2-pyrrolidinyl methoxy]benzoate | COC=1C=C(C(=O)OCC)C=CC1OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C20H29NO6
